US05366988
Synthesis of 1-(O-isopropyl-3-hydroxybenzohydroximoyl)-1H-1,2,4 -triazole
To 150 ml of ethyl acetate were added 5.0 g of 1-(O-isopropyl-3-benzyloxybenzohydroximoyl )-1H-1,2,4-triazole (melting point: 62° C. to 67° C.) And 1 g of 10% palladium carbon at room temperature. In connection with the mixture, the hydrogenolysis reaction was carried out. After 8 hours, the palladium carbon was removed. The filtrate was then concentrated. The residue was purified by column chromatography, thus yielding 3.2 g (yield: 89%) of the desired product having a melting point of 160° C. to 163° C.

reactant | 1-(O-isopropyl-3-benzyloxybenzohydroximoyl )-1H-1,2,4-triazole | 5.0 g | C(C)(C)ON=C(C1=CC(=CC=C1)OCC1=CC=CC=C1)N1N=CN=C1 | C19H20N4O2
catalyst | palladium carbon | 1 g | [C].[Pd]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-(O-isopropyl-3-hydroxybenzohydroximoyl)-1H-1,2,4 -triazole | 3.2 g, yield: 89% | C(C)(C)ON=C(C1=CC(=CC=C1)O)N1N=CN=C1 | C12H14N4O2
